US09334278B2
To a stirred solution of N-tert-butyl-2-(2-methyl-6,7-dihydro-2H-pyrazolo[4,3-b]pyridin-4(5H)-yl)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (87 mg, 180 μmol) in CH2Cl2 (4 mL) was added TFA (740 mg, 500 μL, 6.49 mmol). After 24 h, the mixture was concentrated in vacuo and the residue was re-dissolved in 5 mL of a mixture of (CH2Cl2/methanol/ammonium hydroxide; 60:10:1) and the mixture stirred at room temperature for 24 h, then evaporated to a yellow solid, which was purified by chromatography (spherical silica 20-45 m, 23 g, Versaflash Supelco, 0 to 5% 9:1 methanol:ammonium hydroxide in CH2Cl2, 30 min) to give a residue that was dissolved in CH2Cl2 then precipitated with cyclohexane. The yellow solid was obtained by decanting the mother liquor and dried under high vacuum to give N-tert-butyl-2-(2-methyl-6,7-dihydro-2H-pyrazolo[4,3-b]pyridin-4(5H)-yl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (23 mg, 36%). 1H NMR (CHLOROFORM-d) δ: 9.46 (br. s., 1H), 8.08-8.21 (m, 2H), 7.97 (br. s., 1H), 7.82 (s, 1H), 3.88 (m, 5H), 2.89 (t, J=6.2 Hz, 2H), 2.14-2.28 (m, 2H), 1.56 (s, 9H). MS (EI/CI) m/z: 354.1 [M+H]+.

reactant | N-tert-butyl-2-(2-methyl-6,7-dihydro-2H-pyrazolo[4,3-b]pyridin-4(5H)-yl)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 180 μmol, 87 mg | C(C)(C)(C)NC(=O)C1=CN(C2=NC=C(N=C21)N2C=1C(CCC2)=NN(C1)C)COCC[Si](C)(C)C | C24H37N7O2Si
reactant | TFA | 6.49 mmol, 500 μL, 740 mg | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
product | N-tert-butyl-2-(2-methyl-6,7-dihydro-2H-pyrazolo[4,3-b]pyridin-4(5H)-yl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 23 mg, 36% | C(C)(C)(C)NC(=O)C1=CNC2=NC=C(N=C21)N2C=1C(CCC2)=NN(C1)C | C18H23N7O
